US08981084B2
A mixture of 2-bromo-4-phenylthiazole (300 mg, 1.25 mmol) and pyrrolidine-3-carboxylic acid methyl ester (177 mg, 1.37 mmol) and potassium phosphate (290 mg, 1.37 mmol) in dry toluene (5 mL) were taken in a sealed tube and purged argon gas for 10 min. A catalytic amount of tri-tert-butylphosphine (12 mg, 0.06 mmol) was added, followed by palladium acetate (15 mg, 0.06 mmol), and the reaction mixture was heated to 80° C. for 10 h. The reaction mixture was then filtered through Celite and the clear filtrate was concentrated under reduced pressure to get the crude product which was purified by column chromatography (silica 60-120 mesh, eluant 15-18% EtOAc in petroleum ether) to get methyl 1-(4-phenylthiazol-2-yl)pyrrolidine-3-carboxylate (75 mg, yield 73%). 1H NMR (300 MHz, CDCl3) δ 7.87-7.83 (m, 2H), 7.44-7.31 (m, 4H), 3.88-3.78 (m, 2H), 3.75 (s, 3H), 3.70-3.67 (m, 1H), 3.61-3.55 (m, 1H), 3.32-3.23 (m, 1H), 2.41-2.32 (m, 2H). MS (ESI) m/z: Calculated for C16H16N2O2S: 288.09. found: 289.2 (M+H)+

reactant | 2-bromo-4-phenylthiazole | 1.25 mmol, 300 mg | BrC=1SC=C(N1)C1=CC=CC=C1 | C9H6BrNS
reactant | pyrrolidine-3-carboxylic acid methyl ester | 1.37 mmol, 177 mg | COC(=O)C1CNCC1 | C6H11NO2
reactant | potassium phosphate | 1.37 mmol, 290 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tri-tert-butylphosphine | 0.06 mmol, 12 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.06 mmol, 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 1-(4-phenylthiazol-2-yl)pyrrolidine-3-carboxylate | 75 mg, yield 73% | C1(=CC=CC=C1)C=1N=C(SC1)N1CC(CC1)C(=O)OC | C15H16N2O2S
